Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dilantin / Sulfa (Sulfonamide Antibiotics) / morphine / abacavir
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
R PICC

 
History of Present Illness:
___ with complex medical hx, nonverbal at baseline w/ trach 
mask, AIDS (last CD4 ___, VL < 20 in ___ w/ history 
of poor compliance on ART, recurrent c.diff, toxoplasmosis in 
___ c/b seizures, recurrent c.diff and multiple prior episodes 
of PCP ___/ multiple admissions in ___, including for: 
Toxoplasmosis and CMV Pneumonitis, MRSA PNA, and recent 
admission for MDR UTI in ___, transfer from ___ to ___ 
to ___ for increased respiratory distress, fever, hypoxia.

Per ___ notes, CXR ___ for ? respiratory complaints, started on 
BID augmentin and tamiflu with no infiltrate seen on ___ 
facility ___ mild pulm edema for which 20mg lasix given. Was 
going to be initially transferred to ___ this evening, but per 
EMS concern was diverted to ___, where basic workup showed 
fever to 101.7, normal white count, UA suggestive of UTI, 
thorough trach suctioning with good effect, 325 tylenol liquid, 
CXR without rads read.

PE reveals pt at baseline O2 on trach mask with tachypnea, equal 
b/l lung sounds w/ R basilar crackles, noncommunicative, moving 
arms to voice. No TTP abdomen.

In the ED, initial vitals: 
- 99.8 96 108/69 44 97% 15L trach mask 
- initial labs: H/H 12.4/36.4, WBC 7.9, BUN/Cr ___, lactate 
1.2, U/A with large leuks, + nitrites, few bacteria
- patient given 1g IV Vanc, 2g cefepime, 1L NS 
- CXR with diffuse bilateral opacification, appears c/w prior 
from ___
- ED physical exam: PE reveals pt at baseline O2 on trach mask 
with tachypnea, equal b/l lung sounds w/ R basilar crackles, 
noncommunicative, moving arms to voice. No TTP abdomen.

On arrival to the MICU,  vitals were:  T:98.6 BP:103/56 P:94 
R:23 O2:98% on 50% by trach mask.  Patient was comfortable in 
bed.  

Review of systems:  
(+) Per HPI, also reported right thigh pain, SOB, nausea.  10 
point review of systems otherwise negative unless noted above.  
 
Past Medical History:
- HIV/AIDS (last CD4 count of 182 and HIV VL of 25 as  
of ___ with h/o poor compliance on ART)  
- CNS toxoplasmosis in ___ and again in ___ treated with  
pyrimethamine, clindamycin and leucovorin which was completed  
___  
- Multiple PCP PNAs  
- CMV/HSV pneumonia based on BAL from ___ treated with  
valganciclovir until ___  
- Lymphocytic interstitial PNA; dx in ___ and attributed to  
untreated HIV. Treated with 60mg prednisone (unknown course) and 

intitiation of HAART  
- COPD on home ___  
- s/p trach and PEG for chronic hypoxic respiratory failure  
- History of seizures (attributed to history of Toxoplasmosis)  
- Chronic diarrheal illness  
- History of a ___ burr hole  
- Appendectomy
 
Social History:
___
Family History:
Both parents had congestive heart failure.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=============================
Vitals- T:98.6 BP:103/56 P:94 R:23 O2:98% on 50% by trach mask  
GENERAL: Laying in bed in NAD 
HEENT: NC/AT, sclera anicteric  
NECK: trachostomy tube in place
LUNGS: Ronchorous breath sounds throughout
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, ___, bowel sounds present, no 
rebound tenderness or guarding, PEG tube in place 
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: Follows commands, ___, able to lift both legs at 
the hips 
 

DISCHARGE PHYSICAL EXAM:
================================
 
Pertinent Results:
ADMISSION LABS:
========================
___ 02:35AM BLOOD ___ 
___ Plt ___
___ 02:35AM BLOOD ___ 
___
___ 03:24AM BLOOD ___ ___
___ 02:35AM BLOOD ___ 
___
___ 02:35AM BLOOD ___
___ 02:35AM BLOOD ___
___ 11:18AM BLOOD ___ 
___ Base ___
___ 11:45AM BLOOD ___ O2 ___
___ 05:40AM URINE ___ Sp ___
___ 05:40AM URINE ___  ___ 
___
___ 05:40AM URINE ___ 
___

DISCHARGE LABS:
=========================
___ 04:27AM BLOOD ___ 
___ Plt ___
___ 04:27AM BLOOD ___ ___
___ 04:27AM BLOOD ___ 
___
___ 04:27AM BLOOD ___

IMAGING:
=========================
ECG ___: Sinus rhythm. Likely ventrical axis. Compared to 
the previous tracing  of ___ previously described inferior 
myocardial infarction is no longer noted. R wave regression in 
the precordial leads is not seen on today's tracing. TRACING #1 

ECG ___:  Sinus rhythm. Right axis deviation. Compared to 
tracing #1 there are no significant changes. TRACING #2 

CXR ___: 
IMPRESSION: Focal opacity at the right lung base concerning for 
pneumonia.  Diffuse background interstitial lung disease, 
potentially caused by chronic underlying infection.

CXR ___:
IMPRESSION:  
The new right PICC line terminates at the upper to mid SVC. No 
pneumothorax. 

MICRO:
==========================
OTHER BODY FLUID VIRAL, MOLECULAR FluAPCR  FluBPCR 
___ 03:59                  NEGATIVE NEGATIVE 

___ 7:55 am SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal. 

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------     8 S
CEFTAZIDIME-----------     2 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     4 S
MEROPENEM-------------     4 I
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S

   FUNGAL CULTURE (Preliminary): 
      YEAST. 

___ 12:24 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Reported to and read back by ___ @ 10:50, 
___. 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C. difficile by the Illumigene 
DNA
         amplification.            (Reference ___. 

Urine Cx Mixed flora x2
Blood Cx NGTD x3
 
Brief Hospital Course:
This is a ___ year old male with past medical history of AIDS 
complicated by multiple infections and resulting aphasia, 
chronic respiratory failure requiring trach/PEG, recurrent 
c.diff, admitted ___ to MICU with acute on chronic 
respiratory failure secondary to pseudomonas PNA, treated with 
cefepime, course complicated by recurrent cdiff treated with PO 
vancomycin, now improved to baseline and ready for discharge

# Acute on Chronic Respiratory Failure / Acute Pseudomonas 
Pneumonia  - Patient noted to tachypneic, CXR concerning for RLL 
pneumonia. Patient was started empirically on vancomycin and 
cefepime for pneumonia. Sputum culture grew pseudomonas. Patient 
planned for 14 day course, last day ___. Infusing via R PICC 
placed during admission. Resolved to home O2 trach mask of 35%, 
discharged. 

# C Diff Colitis - Frequent BM after initiation of Cefepime, h/o 
significant c diff, found to have C diff test positive.  Per 
previous ID notes, will plan to treat with PO Vanco during 
Cefepime course and extend an additional 2 weeks (last day 
___. Please hold Cholestyramine until PO Vanco course 
completed as it binds Vanco in the gut.

# Right leg pain: Pt with chronic R thigh pain. Prior plain film 
showed he is s/p fixation in bilateral hips, with some evidence 
of osteonecrosis. Seen by ortho during previous admission who 
recommended against MRI (would not change management) and felt 
surgery was not indicated. Was recommended that he follow up 
with ortho as outpatient, however, no ortho notes in system 
after last discharge. Continued home pain regimen.
  
# HIV: Last CD4 count of 182 in ___ and HIV VL <20 as of ___. 
Continued home ___ 1 tab daily, Darunavir 
800 mg PO DAILY, RiTONAvir 100 mg PO daily. Continued home 
atovaquone and azithromycin prophylaxis.  

# H/o SVT. On metoprolol from hx of SVT while inpatient ___. 
Continued metoprolol tartrate 50mg BID.

# Chronic respiratory failure s/p trach: HZumidified trach mask 
and suctioning as needed, back on last O2 requirement at 
discharge of 35% trach mask, continue weaning at rehab. 
Continued home albuterol/ipratropium nebs prn.

# Chronic abdominal pain: Continue home hyoscyamine, holding 
cholestyramine.
 
# Seizure history: Continue home Keppra 1250mg PO BID.

# Depression/Anxiety/Insomnia: Continued citalopram and ativan.

Transitional Issues:
# Full Code
# Communication:  ___, HCP ___
-Cont Cefepime, planned 14d course, last day ___
-Cont PO Vanco through Cefepime course and an additional 14 days 
afterwards, last day ___
-Stopped Cholestyramine as it can bind PO Vanco, can be 
restarted after treatment ends
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg NG Q6H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
3. ___ Hydrox.-Simethicone 30 mL NG QID:PRN upset 
stomach 
4. Atovaquone Suspension 1500 mg NG DAILY 
5. Azithromycin 1200 mg PO 1X/WEEK (FR) 
6. Bisacodyl 10 mg PR HS:PRN constipation 
7. Calcium Acetate 1334 mg NG DAILY 
8. Cholestyramine 4 gm PO DAILY 
9. Darunavir 800 mg PO DAILY 
10. ___ (Truvada) 1 TAB PO DAILY 
11. Hyoscyamine 0.125 mg PO BID 
12. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN sob 
13. LeVETiracetam 1250 mg PO BID 
14. Lorazepam 0.25 mg NG Q6H:PRN anxiety 
15. Metoprolol Tartrate 50 mg PO BID 
16. RiTONAvir 100 mg NG DAILY 
17. Acidophilus (L.acidoph & 
___ acidophilus) 175 mg via 
___ BID 
18. Fleet Enema ___AILY:PRN constipation 
19. Milk of Magnesia 30 mL NG Q6H:PRN constipation 
20. TraZODone 25 mg PO HS:PRN sleep 
21. Citalopram 10 mg PO DAILY 
22. OxycoDONE (Immediate Release)  2.5 mg PO Q8H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 650 mg NG Q6H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
3. ___ Hydrox.-Simethicone 30 mL NG QID:PRN upset 
stomach 
4. Atovaquone Suspension 1500 mg NG DAILY 
5. Azithromycin 1200 mg PO 1X/WEEK (FR) 
6. Bisacodyl 10 mg PR HS:PRN constipation 
7. Calcium Acetate 1334 mg NG DAILY 
8. Citalopram 10 mg PO DAILY 
9. Darunavir 800 mg PO DAILY 
10. ___ (Truvada) 1 TAB PO DAILY 
11. Hyoscyamine 0.125 mg PO BID 
12. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN sob 
13. LeVETiracetam 1250 mg PO BID 
14. Lorazepam 0.25 mg NG Q6H:PRN anxiety 
RX *lorazepam 0.5 mg 0.5 (One half) tablet(s) by mouth every 6 
hours Disp #*30 Tablet Refills:*0
15. Metoprolol Tartrate 50 mg PO BID 
16. OxycoDONE (Immediate Release)  2.5 mg PO Q8H:PRN pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every 8 
hours Disp #*30 Tablet Refills:*0
17. RiTONAvir 100 mg PO DAILY 
18. TraZODone 25 mg PO HS:PRN sleep 
19. Acidophilus (L.acidoph & 
___ acidophilus) 175 mg via 
___ BID 
20. Fleet Enema ___AILY:PRN constipation 
21. Milk of Magnesia 30 mL NG Q6H:PRN constipation 
22. CefePIME 2 g IV Q8H 
23. Vancomycin Oral Liquid ___ mg PO Q6H 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Pneumonia, C diff colitis
Secondary: HIV, Respiratory failure s/p Tracheostomy

 
Discharge Condition:
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your stay at ___. 
You were admitted for respiratory distress and you were found to 
have pneumonia. You will need to take antibiotics for 14 days. 
In addition, you were started on antibiotics to prevent 
clostridium dificile infection. You will need to take this 
second antibiotic for 14 extra days after completion of the 
antibiotics for the pneumonia in order to prevent the 
clostridium dificile from worsening.

___ MDs
 
Followup Instructions:
___